US08076345B2
A) N-methoxy-N-methyl-6-(trifluoromethyl)nicotinamide
To a stirred mixture of N,O-dimethylhydroxylamine hydrochloride (9.47 g, 97.1 mmol) and pyridine (18.6 mL, 230 mmol) in CH2Cl2 (100 mL) was added a solution of 6-(trifluoromethyl)nicotinoyl chloride (18.50 g, 88.28 mmol) in CH2Cl2 (250 mL) over 3-5 min. The reaction mixture was stirred at rt overnight, and then carefully quenched with 150 mL of saturated aq. NaHCO3 solution and stirred for about 1 hr. The mixture was diluted with CH2Cl2 (50 mL) and the organic phase was separated and washed with aq. NaHCO3 solution (100 mL) and brine (50 mL), dried (Na2SO4), filtered, and evaporated. The residue was redissolved in toluene (about 50 mL) and evaporated again to azeotrope the pyridine off. This was repeated with toluene (about 50 mL). The product was isolated as a colorless oil (with a small amount of crystalline material) (19.1 g, 92%).

reactant | N,O-dimethylhydroxylamine hydrochloride | 97.1 mmol, 9.47 g | Cl.CNOC
reactant | pyridine | 230 mmol, 18.6 mL | N1=CC=CC=C1 | C5H5N
reactant | 6-(trifluoromethyl)nicotinoyl chloride | 88.28 mmol, 18.50 g | FC(C1=NC=C(C(=O)Cl)C=C1)(F)F | C7H3ClF3NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methyl-6-(trifluoromethyl)nicotinamide | CON(C(C1=CN=C(C=C1)C(F)(F)F)=O)C | C9H9F3N2O2
